US06969766B2
1-(Benzothiazole-2-sulfonyl)-4-{[2-N-(piperonyloxycarbonyl)-guanin-9-yl]-acetyl}-piperazin-2-one
The title compound was synthesized by the reaction of 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt with [2-N-(piperonyloxycarbonyl)-guanin-9-yl]-acetic acid as per the procedure of Example 52. 1H NMR (500 MHz; DMSO-d6) δ 11.40 (brs, 2H), 8.36 (m, 1H), 8.27 (m, 1H), 7.84 (s, 0.6H), 7.78 (s, 0.4H), 7.73 (m, 2H), 7.02 (s, 1H), 6.93 (s, 2H), 6.04 (s, 2H), 5.15 (m, 3.2H), 5.05 (s, 0.8H), 4.55 (s, 0.8H), 4.30 (s, 1.2H), 4.27 (t, 1.2H), 4.11 (t, 0.8H), 4.07 (t, 1.2H), 3.88 (t, 0.8H).

reactant | 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt | FC(C(=O)O)(F)F.S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CNCC2)=O
reactant | [2-N-(piperonyloxycarbonyl)-guanin-9-yl]-acetic acid | C(C1=CC=2OCOC2C=C1)OC(=O)NC=1NC(C=2N=CN(C2N1)CC(=O)O)=O | C16H13N5O7
product | 1-(Benzothiazole-2-sulfonyl)-4-{[2-N-(piperonyloxycarbonyl)-guanin-9-yl]-acetyl}-piperazin-2-one | S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CN(CC2)C(CN2C=1N=C(NC(C1N=C2)=O)NC(=O)OCC2=CC=1OCOC1C=C2)=O)=O | C27H22N8O9S2
